US20010025039A1
(R)-2-(2,3-Dihydro-1H-3a,6-diaza-cyclopenta[a]inden-8-yl)-1-methyl-ethylamine
By the same general procedure as in example 3(R)-2-(2,3-Dihydro-1H-3a,6-diaza-cyclopenta[a]inden-8-yl)-1-methyl-ethylamine was obtained from 8-Bromo-2,3-dihydro-1H-3a,6-diaza-cyclopenta[a]indene and (R)-4-Methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester as white solid. MS: 216.3

reactant | 8-Bromo-2,3-dihydro-1H-3a,6-diaza-cyclopenta[a]indene | BrC1=C2N(C=3C=CN=CC13)CCC2 | C10H9BrN2
reactant | (R)-4-Methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(OC[C@H]1C)(=O)=O | C8H15NO5S
product | (R)-2-(2,3-Dihydro-1H-3a,6-diaza-cyclopenta[a]inden-8-yl)-1-methyl-ethylamine | C1CCN2C1=C(C=1C=NC=CC21)C[C@@H](C)N | C13H17N3
